US07253171B2
2-(Piperidine-1-sulfonyl)phenylamine
The title compound (0.59 g, 58%) was obtained as a brown solid from piperidine and 2-nitrobenzenesulfonylchloride following the same procedure as described in preparation 2.

reactant | piperidine | N1CCCCC1 | C5H11N
reactant | 2-nitrobenzenesulfonylchloride | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
product | 2-(Piperidine-1-sulfonyl)phenylamine | 0.59 g, 58% | N1(CCCCC1)S(=O)(=O)C1=C(C=CC=C1)N | C11H16N2O2S
